Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
___
Right thoracotomy and tracheobronchoplasty with mesh and 
bronchoscopy with lavage.

 
History of Present Illness:
___ with TBM s/p stent placement with good improvement in
symptoms, now with removal of stents 6 weeks ago. Reports today
that he has had minimal return of symptoms since stent removal,
reports that he was able to walk from ___ to clinic
(appx 1 mile) without coughing or shortness of breath. However 
he
says that he is still feeling "crummy", with shortness of 
breath,
fatigue after 6 hours of work preventing him from returning to
full-time work, and difficulty sleeping. He says that these
symptoms are better than they were before the stents were 
placed,
but not by much. He has not had a bad coughing spell however in 
2
weeks.

 
Past Medical History:
Pneumonia ___ (hosp in ___, hosp x 6 in ___ yr  
GERD/LPR  
Paradoxical Vocal Fold Motion  
Small lung nodules  
Kidney stone, s/p retrieval surgery  
s/p umbilical hernia repair in his mid ___  
Tracheobronchomalacia

 
Social History:
___
Family History:
Mother - ___

 
Physical Exam:
BP: 122/76. Heart Rate: 78. Weight: 264.6 (With Clothes; With
Shoes). Height: 71 (With Shoes). BMI: 36.9. Temperature: 97.9. 
O2
Saturation%: 98.
       
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [x] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [x] No fremitus
[x] No egophony    [x] No spine/CVAT
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
[x] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[x] Cranial nerves intact   [ ] Abnormal findings:

MS     

        
[x] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[x] No tenderness  [x] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[x] Inguinal nl   [ ] Abnormal findings:

SKIN           
[] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [x ] Abnormal findings:
abrasions from scratching ankles

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
                     WBC  RBC   Hgb   Hct  MCV MCH  MCHC  RDW 
RDWSD Plt Ct 
___ 04:33     8.4  3.63* 10.7* 33.3* 92 29.5 32.1  13.7 
46.0  255 
___ 04:22     9.1  3.50* 10.4* 32.5* 93 29.7 32.0  13.8 
47.2* 236 
___ 04:27    11.2* 3.36* 10.0* 31.3* 93 29.8 31.9* 13.9 
47.5* 227 
___ 03:28    14.9* 3.55* 10.6* 34.1* 96 29.9 31.1* 14.5 
51.0* 199 
___ 02:34    22.4* 4.01* 12.0* 38.2* 95 29.9 31.4* 14.2 
49.6* 205 
___ 21:24    22.8* 4.26* 12.7* 40.6  95 29.8 31.3* 14.2 
49.3* 227 
___ 03:32    17.6* 4.24* 12.8* 38.5* 91 30.2 33.2  13.8 
45.8  242 
___ 00:59                      39.5*             
___ 16:50    27.7* 4.54* 13.6* 39.5* 87 30.0 34.4  13.4 
42.4  236 

                Glucose  UreaN Creat Na  K   Cl HCO3 AnGap 
___ 04:33    921   24*  1.0  135 4.1 ___ 
___ 04:22    951   23*  1.1  136 3.6  99 26  15 
___ 04:27    941   23*  1.0  134 4.1  97 29  12 
___ 03:28    931   34*  1.5* 129* 4.7 95* 25 14 
___ 13:25    124*1 37*  1.7* 131* 4.5 98 23  15 
___ 02:34    136*1 36*  2.1* 132* 5.0 97 22  18 
___ 21:24    142*1 34*  2.2* 133  5.1 98 21* 19 
___ 15:50    142*1 36*  2.6* 136 5.9* ___ 
___ 09:34    143*1 31*  2.6* 137 5.5* 103 20* 20 
___ 03:32    134*1 25*  1.8* 135 5.2* 102 20* 18 
___ 16:50    ___  136 4.7  102 19* 20 

___ CXR :
Comparison to ___.  The right postoperative chest tube 
is in 
unchanged position.  Lung volumes have decreased, with an 
increase in extent of the bilateral areas of atelectasis.  
Moderate cardiomegaly.  No pneumothorax. 

___ Renal U/S:
Normal renal ultrasound

___ CXR :
  Comparison to ___.  Displaced right-sided rib 
fractures are better appreciated than on the previous 
radiograph.  Small right pleural effusion.  Moderate 
cardiomegaly.  Retrocardiac atelectasis.  Mild pulmonary edema 
is present.  No evidence of pneumothorax. 

___ CXR :
Normal postoperative appearance of the mediastinum. No evidence 
of 
pneumothorax. 
  

 
Brief Hospital Course:
Mr. ___ was admitted to the hospital and taken to the Operating 
Room where she underwent a right thoracotomy and 
tracheobronchoplasty with mesh and bronchoscopy with lavage. He 
tolerated the procedure well and returned to the TSICU extubated 
and in stable condition.  He maintained stable hemodynamics and 
his pain was controlled with an epidural.  His chest tube 
drained minimally and had no air leak.  He had some issues with 
desaturations and increased congestion during the night of 
surgery and was treated with nebulizers, additional oxygen and 
chest ___.  His main problem was related to pain control and his 
epidural infusion at that point was split.  His pain control 
improved but he still had issues and was then placed on oral 
Dilaudid along with the Bupivicaine epidural.  Although he has 
stable BP intra and post op, he developed ___ with a creatinine 
of 1.8 on post op day #1 and a peak of 2.6 on post op day #2.  
His baseline was 1.0.  The renal service followed him closely.  
A renal ultrasound was normal without obstruction and his urine 
sediment was consistent with ATN.  His urine output remained 
adequate along with his blood pressure and the creatinine began 
to trend down on post op ay #3.  His ___ drain was removed and 
his pain decreased.  He was subsequently transferred to the 
Surgical floor for further management.

As he was urged to increase his activity, pain control became an 
issue. He required increased dosed of Dilaudid along with 
scheduled Tramadol and Tylenol.  He was then able to use his 
incentive spirometer and cough and deep breath effectively.  His 
room air saturations were 96% and he continued to use his home 
CPAP mask at ___.  ___ also helped with relieving his 
congestion. His right thoracotomy site was healing well along 
with the chest tube site but he developed extensive erythema on 
his right flank, well below his thoracotomy incision and chest 
tube site.  he was afebrile, had a normal WBC and the area was 
non tender but given the extent and the blanching throughout, he 
was placed on Keflex for a 7 day course.  The area was circled 
and slowly receded.

He continued to improve from a pulmonary standpoint and his 
renal function returned to baseline by ___ with a 
creatinine range of 1.0-1.1.  He was discharged to home on 
___ with ___ services and will follow up in the Thoracic 
Clinic in 2 weeks. He will also call his PCP for ___ follow up 
appointment in ___ weeks.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
2. Mirtazapine 7.5 mg PO QHS 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Ranitidine 300 mg PO QHS 
5. TraMADOL (Ultram) 50 mg PO BID:PRN pain 
6. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
7. Omeprazole 20 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
wheezing 
10. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Mirtazapine 7.5 mg PO QHS 
2. Ranitidine 300 mg PO QHS 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Acetaminophen 1000 mg PO Q6H 
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2
6. Guaifenesin ER 1200 mg PO Q12H 
RX *guaiFENesin  1 tab by mouth twice a day Disp #*60 Tablet 
Refills:*1
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth once a 
day Disp #*30 Packet Refills:*2
8. albuterol sulfate 90 mcg/actuation INHALATION Q4H:PRN 
wheezing 
9. Aspirin 81 mg PO DAILY 
10. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
11. Omeprazole 20 mg PO DAILY 
12. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
13. Vitamin D ___ UNIT PO DAILY 
14. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 neb 
INH four times a day Disp #*56 Ampule Refills:*2
15. TraMADOL (Ultram) 100 mg PO QID:PRN pain 
RX *tramadol 50 mg ___ tablet(s) by mouth four times a day Disp 
#*110 Tablet Refills:*0
16. Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*24 Capsule Refills:*0
17. HYDROmorphone (Dilaudid) 8 mg PO Q3H:PRN PAIN  
RX *hydromorphone 4 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*160 Tablet Refills:*0
18. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*60 
Capsule Refills:*2

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Tracheobronchomalacia.
___
Right flank cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for surgery on your airway 
and you've recovered well. You are now ready for discharge.

* Continue to use your incentive spirometer 10 times an hour 
while awake along with your flutter valve. Also continue your 
nebulizers to help with congestion and wheezing.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.

* No driving while taking narcotic pain medication.

* Take Tylenol  ___ mg every 6 hours in between your narcotic.  


* You had some trouble with your kidney function during your 
hospitalization but its back to normal now. You should follow up 
with your PCP ___ ___ weeks for a full evaluation. Do not take 
any medications that can harm your kidney. 

* Continue to stay well hydrated and eat well to heal your 
incisions

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
 * No tub bathing, swimming or hot tubs until incision healed
 * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

 

 

 

 
 
Followup Instructions:
___